US07501425B1
1-Methyl-7-[4-(4-methylpiperazin-1-yl)phenylamino]pyrimido[4,5-d]pyrimidin-2(1H)-one
Prepared from 250 mg (0.50 mmol) of 1-methyl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one, trifluoroacetic acid and 336 mg (2.99 mmol) of potassium tert-butoxide in 12 mL of tetrahydrofuran. The reaction mixture is stirred for 48 hours. After the workup, the semi-solid is triturated in diethyl ether, and the powder is collected and dried to give 110 mg (61%) of the title compound: mp 259-260° C. (dec).

reactant | 1-methyl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.50 mmol, 250 mg | CN1C(NCC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2CCN(CC2)C)=O | C18H23N7O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium tert-butoxide | 2.99 mmol, 336 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 1-Methyl-7-[4-(4-methylpiperazin-1-yl)phenylamino]pyrimido[4,5-d]pyrimidin-2(1H)-one | 110 mg, 61% | CN1C(N=CC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2CCN(CC2)C)=O | C18H21N7O
